US04266056
α-Cyano-β-ethoxy-N-ethoxycarbonylcrotonamide (0.05 mol) is reacted with 2,6-dimethylaniline (0.05 mol) in hot ethanol using the procedure of Example 1 to yield α-cyano-β-(2,6-dimethylanilino)-N-ethoxycarbonylcrotonamide, which is cyclized by heating in tetralin to yield 5-cyano-1-(2,6-dimethylphenyl)-6-methyluracil, m.p. 302°-303°.

reactant | α-Cyano-β-ethoxy-N-ethoxycarbonylcrotonamide | 0.05 mol | C(#N)/C(/C(=O)NC(=O)OCC)=C(\C)/OCC | C10H14N2O4
reactant | 2,6-dimethylaniline | 0.05 mol | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | ethanol | C(C)O | C2H6O
product | α-cyano-β-(2,6-dimethylanilino)-N-ethoxycarbonylcrotonamide | C(#N)/C(/C(=O)NC(=O)OCC)=C(\C)/NC1=C(C=CC=C1C)C | C16H19N3O3
